US05808062
4-Hydroxy-6-[4-(2-hydroxyethoxy)phenyl]-3-[(2-phenylethyl)thio]-2H-pyran-2-one:
To a tetrahydrofuran (7 mL) solution of [4-[4-hydroxy-2-oxo-3[(2-phenylethyl)thio]-2H-pyran-6-yl]-phenoxy]acetic acid, ethyl ester (0.30 g, 0.70 mmol) was added 2.0M lithium borohydride (0.5 mL, 1.00 mmol). The reaction was stirred overnight. The reaction was then quenched by addition of 1N hydrochloric acid (2.0 mL) and diluted with ethyl acetate (50 mL). The organic layer was separated and washed with saturated sodium chloride and dried over anhydrous magnesium sulfate. After evaporation of the solvents in vacuo, the crude product was purified by column chromatography (silica gel--230 to 400 mesh) using 50% ethyl acetate/hexanes to 100% ethyl acetate as the eluent. m.p. 123°-125° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.77 (t, 2H), 2.97 (t, 2H), 3.37 (m, 2H), 4.07 (t, 2H), 4.92 (bs, 1H), 6.68 (s, 1H), 7.09 (d, 2H), 7.19 (m, 5H), 7.75 (d, 2H).

reactant | [4-[4-hydroxy-2-oxo-3[(2-phenylethyl)thio]-2H-pyran-6-yl]-phenoxy]acetic acid, ethyl ester | 0.70 mmol, 0.30 g | OC1=C(C(OC(=C1)C1=CC=C(OCC(=O)OCC)C=C1)=O)SCCC1=CC=CC=C1 | C23H22O6S
reactant | lithium borohydride | 1.00 mmol, 2.0M, 0.5 mL | [BH4-].[Li+]
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | 4-Hydroxy-6-[4-(2-hydroxyethoxy)phenyl]-3-[(2-phenylethyl)thio]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=C(C=C1)OCCO)=O)SCCC1=CC=CC=C1 | C21H20O5S
